* C:\Program Files\LTC\LTspiceIV\Python_LTSpice_Examples\simple_resistance_circuit.asc
vsource Vsource 0 {Vsource}
Rload0 Vsource Test {Rload0}
Rload1 Test 0 {Rload1}
.param Vsource=5v Rload0=1k Rload1=5k
.op
.backanno
.end
